US08486934B2
3-(3-methyl-2-nitrophenyl)-5,6-dihydro-4H-[1,2,4]oxadiazine
1.4 g (5.4 mmol) of 3-methyl-N-(2-chloroethoxy)-2-nitrobenzamidine are initially charged in 45 ml of 1-methyl-2-pyrrolidone, and 0.18 g (6 mmol) of sodium hydride (80% pure) is added slowly. The mixture is stirred at 100° C. for 12 h, cooled, poured onto water and extracted with ethyl acetate. After drying over sodium sulphate, the solvent is distilled off under reduced pressure.

reactant | 3-methyl-N-(2-chloroethoxy)-2-nitrobenzamidine | 5.4 mmol, 1.4 g | CC=1C(=C(C(=N)NOCCCl)C=CC1)[N+](=O)[O-] | C10H12ClN3O3
reactant | sodium hydride | 6 mmol, 0.18 g | [H-].[Na+]
solvent | 1-methyl-2-pyrrolidone | 45 ml | CN1C(CCC1)=O | C5H9NO
product | 3-(3-methyl-2-nitrophenyl)-5,6-dihydro-4H-[1,2,4]oxadiazine | CC=1C(=C(C=CC1)C1=NOCCN1)[N+](=O)[O-] | C10H11N3O3
